US05753657
6.3 g of t-butoxybis(dimethylamino)methane are added dropwise over 5 minutes at a temperature in the region of 25° C. to a suspension of 5.5 g of 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one in 100 ml of dimethylformamide. After stirring for 30 minutes at the same temperature, the mixture is poured into 500 ml of distilled water and extracted 5 times with 1.5 litres in total of chloroform. The organic extracts are combined, washed with 250 ml of distilled water, dried over anhydrous magnesium sulphate and concentrated to dryness under reduced pressure (15 mmHg; 2 kPa) at 60° C. The product obtained (4.5 g) is suspended in 25 ml of methanol, filtered, washed twice with 20 ml in total of methanol and dried under reduced pressure (15 mmHg; 2 kPa) at 20° C. The product obtained (4.5 g) is dissolved in 45 ml of boiling dimethylformamide and, after cooling, the solution is stored for 4 hours at a temperature in the region of 5° C. The crystals are separated out by filtration, washed successively with 10 ml of dimethylformamide, 10 ml of acetone and dried to dryness under reduced pressure (1 mmHg; 0.13 kPa) at 100° C. 4 g of 10-[(E)-dimethylaminomethylene]-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one are thus obtained, melting at 293° C. [N.M.R. spectrum: (200 MHz; DMSO d6 ; δ in ppm): 3.35 (s, 6H: --N(CH3)2); 7.18 and 7.28 (2t, J=7.5 Hz, 2H: --H7 and --H8); 7.48 and 7.92 (2d, J=7.5 Hz, 1H each: --H6 and --H9); 7.63 and 8.50 (2s broad, 1H each: --H of the imidazole); 8.09 (s, 1H: =CH--N); 12.30 (cplx, 1H: --NH--)].

reactant | t-butoxybis(dimethylamino)methane | 6.3 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | 5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 5.5 g | C1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1 | C13H9N3O
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | methanol | 25 ml | CO | CH4O
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 10-[(E)-dimethylaminomethylene]-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 4 g | CN(C)\C=C\1/C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C16H14N4O
